US07001897B2
A solution of 1-{4-[N-(2-azido-ethyl)-N-isopropyl-carbamoyl]-1,3-thiazol-2-yl}azetidine-3-t-butyldiphenylsilyloxyazetidine (1.33 g, 2.42 mmol) (obtained as described in Reference Example 60(1)) in methanol (65 ml) was subjected to catalytic hydrogenation in the presence of 20% palladium hydroxide on charcoal (1.33 g) at room temperature. After checking the completion of the reaction, the reaction mixture was filtered in order to remove the catalyst and the filtrate concentrated under reduced pressure. To a solution of the obtained crude product in methylene chloride (63 ml) were added chloroformic acid p-nitrobenzyl ester (627 mg, 2.90 mmol) and triethylamine (0.41 ml, 2.90 mmol) in an ice bath, and the mixture was stirred for 1 hour under the same conditions. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium chloride solution. The obtained organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate ethyl acetate:methanol (10:1) as the eluant to afford 3-t-butyldiphenylsilyloxy-1-(4-{N-isopropyl-N-[2-(p-nitrobenzyloxycarbonylamino)ethyl]-carbamoyl}-1,3-thiazol-2-yl)azetidine (945 mg, yield 56%) as a pale yellow oil.

reactant | 1-{4-[N-(2-azido-ethyl)-N-isopropyl-carbamoyl]-1,3-thiazol-2-yl}azetidine 3-t-butyldiphenylsilyloxyazetidine | 2.42 mmol, 1.33 g | N(=[N+]=[N-])CCN(C(=O)C=1N=C(SC1)N1CCC1)C(C)C.[Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CNC1
reactant | chloroformic acid p-nitrobenzyl ester | 2.90 mmol, 627 mg | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
reactant | triethylamine | 2.90 mmol, 0.41 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 65 ml | CO | CH4O
catalyst | palladium hydroxide on charcoal | 1.33 g | [OH-].[OH-].[Pd+2]
product | 3-t-butyldiphenylsilyloxy-1-(4-{N-isopropyl-N-[2-(p-nitrobenzyloxycarbonylamino)ethyl]-carbamoyl}-1,3-thiazol-2-yl)azetidine | 945 mg, yield 56% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(N(CCNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C)C)=O | C36H43N5O6SSi
